US05922737
Synthesis of (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
Combine (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(1-benzylpiperidin-4-yl)amine (0.51 g, 1.35 mmol), 20% palladium hydroxide-on-carbon, and methanol (40 mL). Hydrogenate in a Parr apparatus at an initial pressure of 40 psi. After 24 hours, filter through celite, rinse with methanol, and evaporate invacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 4% triethylamine/methanol to give the title compound: Rf =0.28 (2% triethylamine/methanol).

reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(1-benzylpiperidin-4-yl)amine | 1.35 mmol, 0.51 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC2=CC=CC=C2 | C23H30N4O
reactant | methanol | 40 mL | CO | CH4O
catalyst | palladium hydroxide-on-carbon | O.[Pd]
solvent | triethylamine methanol | C(C)N(CC)CC.CO
product | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
